US07456176B2
Synthesis of 4-[5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide
In a dry 25 mL round bottom flask, 5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamine (0.223 g, 0.7935 mmol, 1 equiv), 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.396 g, 1.19 mmol, 1.5 equiv), cesium carbonate (0.776 g, 2.38 mmol, 3 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.092 g, 0.159 mmol, 0.2 equiv) and tris(dibenzylideneacetone)dipalladium (0.073 g, 0.079 mmol, 0.1 equiv) were combined. The reactants were flushed with argon, diluted with dioxane (10 mL) and outfitted with a reflux condenser. The reaction was heated to reflux for 5 hours, then filtered hot and the solvents were evaporated. Silica gel column purification provided desired product as a yellow powder (0.16 g, 39% yield). MS (ESI+): m/z=582.1

reactant | 5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamine | 0.7935 mmol, 0.223 g, 1 equiv | CC1=CC(=CC2=C1N=C(N=N2)N)C2=CC(=CC=C2)[N+](=O)[O-] | C14H11N5O2
reactant | 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 1.19 mmol, 0.396 g, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)NCCN1CCCC1 | C12H17BrN2O2S
reactant | cesium carbonate | 2.38 mmol, 0.776 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.159 mmol, 0.092 g, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.079 mmol, 0.073 g, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[5-methyl-7-(3-nitro-phenyl)-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.16 g, 39% yield | CC1=CC(=CC2=C1N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C2=CC(=CC=C2)[N+](=O)[O-] | C26H27N7O4S
